US07939527B2
Intermediate 22: 2-[4-(Chloromethyl)phenoxy][1,3]thiazolo[5,4-b]pyridine
To a solution of [4-([1,3]thiazolo[5,4-b]pyridin-2-yloxy)phenyl]methanol (140 mg, 0.542 mmol) in CH2Cl2 (3.6 mL) was added SOCl2 (43 μL, 0.596 mmol, 1.1 equiv.). The solution was allowed to stir under N2 at rt for 4 h. The reaction mixture was then concentrated to afford the desired product as a cream-colored solid (157 mg, 92%). MS (ESI): mass calcd. for C13H9ClN2OS, 276.0; m/z found, 277.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 8.47 (dd, J=4.4, 1.5, 1H), 8.11 (dd, J=8.2, 1.5, 1H), 7.65-7.57 (m, 2H), 7.56-7.47 (m, 3H), 4.85 (s, 2H).

reactant | [4-([1,3]thiazolo[5,4-b]pyridin-2-yloxy)phenyl]methanol | 0.542 mmol, 140 mg | N1=C(SC2=NC=CC=C21)OC2=CC=C(C=C2)CO | C13H10N2O2S
reactant | SOCl2 | 0.596 mmol, 43 μL, 1.1 equiv. | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 3.6 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(Chloromethyl)phenoxy][1,3]thiazolo[5,4-b]pyridine | 157 mg, 92% | ClCC1=CC=C(OC=2SC3=NC=CC=C3N2)C=C1 | C13H9ClN2OS
